US07851473B2
(2) 2-Bromo-5-methyl-4-phenyl-1,3-thiazole
A solution of 1-methyl-2-oxo-2-phenylethyl thiocyanate (1.00 g, 5.23 mmol) in 25% hydrogen bromide/acetic acid (10 ml) was stirred at 130° C. for 2 hours and at room temperature for 1 hour. Water was poured into the reaction solution, and the mixture was extracted with chloroform. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to give 971 mg (73.1%) of the desired product as an oil.

reactant | 1-methyl-2-oxo-2-phenylethyl thiocyanate | 5.23 mmol, 1.00 g | CC(C(C1=CC=CC=C1)=O)SC#N | C10H9NOS
reactant | Water | O | H2O
reactant | hydrogen bromide acetic acid | 10 ml | Br.C(C)(=O)O
product | 2-Bromo-5-methyl-4-phenyl-1,3-thiazole | 971 mg, 73.1% | BrC=1SC(=C(N1)C1=CC=CC=C1)C | C10H8BrNS
